US07223776B2
42.a) 4-(6-Methoxy-quinazolin-4-yloxymethyl)-cyclohexanol
Sodium hydride (79 mg (1.5 eq.) was added at 0° C. to a solution of 4-hydroxymethyl-cyclohexanol (3 g, 12 mmol, synthesised analogously to J. Org. Chem. 1994 59 p. 2748–2761) in DMF (30 ml). After 20 minutes, a solution of 4-chloro-6-methoxy-quinazoline (1.94 g, 10 mmol) in DMF (10 ml) was added and the reaction mixture was heated to 40° C. After a further 2 hours, the reaction mixture was concentrated to dryness. The residue was diluted with water (100 ml) and ethyl acetate (100 ml), the phases were separated and the aqueous phase was extracted twice using 50 ml of ethyl acetate each time. The combined organic phases were dried over MgSO4, filtered and concentrated to dryness by rotary evaporation. The residue was purified by column chromatography on silica gel (EtOAc/hexane 1/2).

reactant | Sodium hydride | [H-].[Na+]
reactant | 4-hydroxymethyl-cyclohexanol | OCC1CCC(CC1)O | C7H14O2
reactant | 4-chloro-6-methoxy-quinazoline | 10 mmol, 1.94 g | ClC1=NC=NC2=CC=C(C=C12)OC | C9H7ClN2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-(6-Methoxy-quinazolin-4-yloxymethyl)-cyclohexanol | COC=1C=C2C(=NC=NC2=CC1)OCC1CCC(CC1)O | C16H20N2O3
